US07098222B2
2-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline
The title compound was prepared using the procedure described in Example 1G-substituting 1-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-yl]-ethanone (CAS # 169814-48-6, Maybridge Chemical Company Ltd., catalog number SPB 04957) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.14 (d, J=5.76 Hz, 3H), 1.47 (m, 1H), 1.78 (m, 2H), 1.96 (m, 1H), 2.25 (q, J=8.70 Hz, 1H), 2.40 (m, 2H), 2.68 (s, 3H), 3.03 (m, 2H), 3.15 (m, 1H), 3.30 (td, J=8.39, 2.54 Hz, 1H), 7.08 (d, J=8.48 Hz, 1H), 7.32 (ddd, J=8.65, 2.20, 2.03 Hz, 2H), 7.45 (ddd, J=8.65, 2.37, 2.20 Hz, 2H), 7.65 (m, 2H), 8.01 (d, J=8.48 Hz, 1H), 8.03 (d, J=8.82 Hz, 1H); MS (DCI-NH3) [M+H]+ at 432.

reactant | 1-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-yl]-ethanone | ClC1=CC=C(C=C1)C1=NOC(=C1C(C)=O)C | C12H10ClNO2
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 2-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline | ClC1=CC=C(C=C1)C1=NOC(=C1C1=NC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C)C | C26H26ClN3O
